US04723018
20 ml of a 30% aqueous solution of sodium hydroxide was added dropwise to a mixture of 2 g (0.007 mol) of 2-(p-hydroxyphenyl)-5-octylpyridine and 1.65 g (0.007 mol) of (R)-1-bromo-(4-methyl)decane with stirring. The resulting solution was heated to a temperature between about 90° and 100° C. for 3 hours. 150 ml of water was added to the reaction solution and the organic layer was extracted with chloroform. After washing the extract three times with water, chloroform was removed by distillation. The residue was chromatographed over 2.5×100 (cm) of silica gel and developed with hexane and benzene. The effluent was repeatedly recrystallized from a mixture of methanol and acetone to yield 1.44 g (0.0033 mol) of (R)2-[p-(4-methyldecyloxy)phenyl]-5-octylpyridine.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(p-hydroxyphenyl)-5-octylpyridine | 0.007 mol, 2 g | OC1=CC=C(C=C1)C1=NC=C(C=C1)CCCCCCCC | C19H25NO
reactant | (R)-1-bromo-(4-methyl)decane | 0.007 mol, 1.65 g | BrCCC[C@@H](CCCCCC)C | C11H23Br
solvent | water | 150 ml | O | H2O
product | (R)2-[p-(4-methyldecyloxy)phenyl]-5-octylpyridine | 0.0033 mol, 1.44 g | C[C@@H](CCCOC1=CC=C(C=C1)C1=NC=C(C=C1)CCCCCCCC)CCCCCC | C30H47NO
